US07906660B2
7-hydroxyisoflavan-4-ol was prepared from 7-acetoxyisoflavan-4-ol (0.14 g, 0.5 mmol) and Imidazole (0.17 g) in ethanol (3.0 ml) as described for cis- and trans-tetrahydrodaidzein.

reactant | 7-acetoxyisoflavan-4-ol | 0.5 mmol, 0.14 g | C(C)(=O)OC1=CC=C2C(C(COC2=C1)C1=CC=CC=C1)O | C17H16O4
reactant | Imidazole | 0.17 g | N1C=NC=C1 | C3H4N2
solvent | ethanol | 3.0 ml | C(C)O | C2H6O
product | 7-hydroxyisoflavan-4-ol | OC1=CC=C2C(C(COC2=C1)C1=CC=CC=C1)O | C15H14O3
